US07423159B2
A mixture of 4-nitrophenol (3.92 g), 4-chloromethyl-1,3-thiazole hydrochloride (4.0 g), potassium carbonate (8.13 g) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 40 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-[(4-nitrophenoxy)methyl]-1,3-thiazole as colorless crystals (3.38 g, yield 61%). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 175-176° C.

reactant | 4-nitrophenol | 3.92 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 4-chloromethyl-1,3-thiazole hydrochloride | 4.0 g | Cl.ClCC=1N=CSC1
reactant | potassium carbonate | 8.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-[(4-nitrophenoxy)methyl]-1,3-thiazole | 3.38 g, yield 61% | [N+](=O)([O-])C1=CC=C(OCC=2N=CSC2)C=C1 | C10H8N2O3S
